US05134111
(c) Preparation of 8-isopropyl-1-naphthyl acetate
3.6 g of 8-isopropenyl-1-naphthyl acetate was dissolved in 100 ml of ethanol, to which 0.2 g of 10% palladium-carbon (water content of 50%) was added, followed by hydrogenation at normal temperatures and normal pressure for 20 hours. After removal of the palladium-carbon by filtration, the resulting filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (3% ethyl acetate/hexane) to obtain 1.72 g of the captioned compound as an oily substance.

reactant | 8-isopropenyl-1-naphthyl acetate | 3.6 g | C(C)(=O)OC1=CC=CC2=CC=CC(=C12)C(=C)C | C15H14O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | 8-isopropyl-1-naphthyl acetate | 1.72 g | C(C)(=O)OC1=CC=CC2=CC=CC(=C12)C(C)C | C15H16O2
